US04939241
A solution of O-(2-diazo-1,3-dioxobutyl)-N-trifluoroacetyl-L-serine (193 mg) and Acylase I (acylase, Sigma A-7264, made by Sigma Chemicals) (60 mg) in water (6 ml) was neutrized to pH 7.0-7.3 with 2M tris buffer solution and the mixture was stirred for 4 hours at 40° C. The reaction mixture was chromatographed on carbon (20 ml) eluting successively with water, a 1:1 mixture of acetone and water and acetone to give a crude solid (100 mg). The above solid (50 mg) was chromatographed on silica gel (2.5 g) eluting successively with a 9:1 mixture of chloroform and methanol and a 65:25:4 mixture of chloroform, methanol and water to give O-(2-diazo-1,3-dioxobutyl)-L-serine (22 mg).

reactant | O-(2-diazo-1,3-dioxobutyl)-N-trifluoroacetyl-L-serine | 193 mg | [N+](=[N-])=C(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)C(C)=O | C9H8F3N3O6
solvent | water | 6 ml | O | H2O
product | O-(2-diazo-1,3-dioxobutyl)-L-serine | 22 mg | [N+](=[N-])=C(C(=O)OC[C@H](N)C(=O)O)C(C)=O | C7H9N3O5
